US07601716B2
1-(2,5-Dichlorobenzyl)-7-(6-pyrrolidin-1-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine
Pyrrolidine (1 mL) was added to 7-(6-chloropyridin-3-yl)-1-(2,5-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine (49 mg), and the mixture was stirred at 87° C. for 16 hours. The reaction mixture was then concentrated, and CH2Cl2 and H2O were added. The organic phase was isolated, dried with magnesium sulfate, filtered and then purified by normal phase column chromatography eluting with 3% methanol in CH2Cl2 to give the title compound as a yellow solid (36% yield). M.p.>200° C., LCMS: m/z=440.19 (M+H+), 1H-NMR (CDCl3, 400 MHz) δ 1.99 (4H, m), 3.47 (6H, m), 3.64 (2H, t, J=4.0 Hz), 4.47 (2H, s), 4.98 (1H, bs), 6.35 (1H, d, J=8.8 Hz), 6.52 (1H, d, J=1.8 Hz), 7.18 (1H, dd, J=8.3, 2.5 Hz), 7.26 (1H, m), 7.32 (1H, d, J=8.6 Hz), 7.48 (1H, dd, J=8.7, 2.4 Hz), 7.62 (1H, d, J=1.8 Hz), 8.17 (1H, d, J=2.3 Hz).

reactant | Pyrrolidine | 1 mL | N1CCCC1 | C4H9N
reactant | 7-(6-chloropyridin-3-yl)-1-(2,5-dichlorobenzyl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 49 mg | ClC1=CC=C(C=N1)C1=CC2=C(NCCN2CC2=C(C=CC(=C2)Cl)Cl)N=C1 | C19H15Cl3N4
product | 1-(2,5-Dichlorobenzyl)-7-(6-pyrrolidin-1-yl-pyridin-3-yl)-1,2,3,4-tetrahydropyrido[2,3-b]pyrazine | 36% yield | ClC1=C(CN2C3=C(NCC2)N=CC(=C3)C=3C=NC(=CC3)N3CCCC3)C=C(C=C1)Cl | C23H23Cl2N5
